US06048842
1,3-Dimethoxy-5-ethylbenzene (7.69 g) is dissolved in acetic acid (80 ml), and thereto is added with stirring 47% hydrobromic acid at room temperature. The mixture is refluxed for three hours, and the reaction mixture is cooled to room temperature. The mixture is concentrated to dryness under reduced pressure, and the residue is dissolved in ethyl acetate. The organic layer is washed successively with water and a saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure. The residue is recrystallized from diisopropyl ether-hexane to give 1,3-dihydroxy-5-ethylbenzene (5.94 g), m.p. 97-98° C.

reactant | 1,3-Dimethoxy-5-ethylbenzene | 7.69 g | COC1=CC(=CC(=C1)CC)OC | C10H14O2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1,3-dihydroxy-5-ethylbenzene | 5.94 g | OC1=CC(=CC(=C1)CC)O | C8H10O2
